US03983124
2,7-Bis(4-piperidino-1-buten-1-yl)fluorene
A mixture of 4.7 g (0.01 mole) of α,α'-bis(3-piperidinopropyl)-2,7-fluorenedimethanol, 25 ml of concentrated hydrochloric acid and 25 ml of ethylene glycol monoethyl ether is heated at 80°C. for 5 minutes. The solution is diluted with water, made alkaline with a 20% sodium hydroxide solution and the solution is extracted with ether. The ether extract is washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue is crystallized from isopropanol resulting in the preparation of crystalline 2,7-bis(4-piperidino-1-buten-1-yl)fluorene.

reactant | α,α'-bis(3-piperidinopropyl)-2,7-fluorenedimethanol | 0.01 mole, 4.7 g | N1(CCCCC1)CCCC(O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(O)CCCN1CCCCC1 | C31H44N2O2
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | ethylene glycol monoethyl ether | 25 ml | C(C)OCCO | C4H10O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2,7-Bis(4-piperidino-1-buten-1-yl)fluorene | N1(CCCCC1)CCC=CC1=CC=2CC3=CC(=CC=C3C2C=C1)C=CCCN1CCCCC1 | C31H40N2
